US07019007B2
Step A: Preparation of (±)-trans-4-nitro-benzenesulfonic Acid 2-azido-cyclohexyl ester
A solution of (±)-trans-2-azidocyclohexan-1-ol (11.3 g, 80.0 mmol) (Zhang, Z. da; Scheffold, R. Helv. Chim. Acta 1993, 76, 2602] in CH2Cl2 (110 mL) at 0° C. was treated successively with pyridine (14.2 mL, 176 mmol) and 4-nitro-benzenesulfonyl chloride (35.6 g, 160 mmol), allowed to warm to room temperature slowly, stirred for 4 d, and partitioned between CH2Cl2 and 1 N HCl. The aqueous phase was extracted with CH2Cl2 and the extracts were washed with saturated NaHCO3, dried and concentrated. Chromatography of the residue with 10:1–1:1 hexanes:EtOAc gave the product (19 g, 72%) as a cream solid: 1H NMR δ 1.19–1.39 (m, 3H), 1.53–1.82 (m, 3H), 2.00–2.10 (m, 1H), 2.26 (m, 1H), 3.36 (m, 1H), 4.35 (ddd, J=4.7, 9.2, 10.8 Hz, 1H), 8.17 (m, 2H), 8.41 (m, 2H).

reactant | (±)-trans-2-azidocyclohexan-1-ol | 80.0 mmol, 11.3 g | N(=[N+]=[N-])[C@H]1[C@@H](CCCC1)O | C6H11N3O
reactant | pyridine | 176 mmol, 14.2 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitro-benzenesulfonyl chloride | 160 mmol, 35.6 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | CH2Cl2 | 110 mL | C(Cl)Cl | CH2Cl2
product | (±)-trans-4-nitro-benzenesulfonic Acid 2-azido-cyclohexyl ester | 19 g, 72% | N(=[N+]=[N-])[C@H]1[C@@H](CCCC1)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H14N4O5S
